US04798897
To 40 ml of pyridine were added 3.11 g of the thus obtained 1-(1-chloro-5-isoquinolinesulfonyl)-4-hydroxypiperidine and 3.81 g of p-toluenesulfonyl chloride. The resulting mixture was stirred at a temperature of 15° C. to 20° C. for 24 hours. To the reaction mixture was added 100 g of ice water, followed by extraction twice with 100 ml each of dichloromethane. The dichloromethane layer was dried with anhydrous magnesium sulfate and the dichloromethane was removed under reduced pressure to obtain 4.46 g of 1-(1-chloro-5-isoquinolinesulfonyl)-4-p-toluenesulfonyloxypiperidine.

reactant | 1-(1-chloro-5-isoquinolinesulfonyl)-4-hydroxypiperidine | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCC(CC1)O | C14H15ClN2O3S
reactant | p-toluenesulfonyl chloride | 3.81 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-(1-chloro-5-isoquinolinesulfonyl)-4-p-toluenesulfonyloxypiperidine | 4.46 g | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C21H21ClN2O5S2
